Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Tegaderm / Prinivil / Reglan
 
Attending: ___
 
Chief Complaint:
Convulsion
 
Major Surgical or Invasive Procedure:
___ Lumbar puncture attempt
___ ___ lumbar puncture 

 
History of Present Illness:
___ year old M with h/o of DM1, CAD, s/p cadaveric renal 
transplant on immunosuppression, chronic MRSA osteomyelititis, 
recent MRSA bacteremia on vancomycin, recurrent DVTs on coumadin 
presents following probable seizure at home. He reports he was 
sitting in a chair on the computer with wife and friend (who is 
a ___) in the room when his eyes suddenly "rolled to the back 
of his head" and he had bilateral upper extremity shaking 
movements as well as "strange" movements of his mouth/lips and 
shaking of his head. Episode lasted approximately 40 seconds per 
wife and friend and they report he was initially unresponsive 
and unable to speak when he came to and then was confused when 
he arrived at ___. Denies bowel/bladder incontinence, no 
tongue biting. Denies aura. EMS was called and ___ was ___ on 
arrival (reportedly treated with dextrose without change in 
confused state). He was thereafter transferred to ___ 
___ where CT head was negative for bleed. He received unknown 
amount of ativan. He was then transferred to ___ for further 
evaluation.
.
He denies focal numbness/tingling/weakness/dysarthria. He has 
had no headache nor changes in his vision. No photophobia, no 
neck stiffness. He does report "shaking/jerking" movements of 
bilateral shoulders and head over the past few days. Episodes 
were intermittent and resolved spontaneously. Otherwise, he 
reports that he has overall been feeling well at home since his 
___ admission. He has been on vancomycin for MRSA 
osteo/bacteremia and dose was recently upward adjusted (500 to 
1g) for low vanco trough and then was held and and decreased to 
750mg yesterday for trough elevated to 24. He denies 
fevers/chills. Mild runny nose and cough productive of small amt 
clear sputum over past ___ days. No CP/palps. No 
dysuria/hematuria. +diarrhea x2-3 weeks (reports never really 
fully went away after c.diff) and has had ___ episodes/day over 
the past week. No N/V/abdominal pain. No blood in stool.
.
Of note, he was admitted ___ for N/V/diarrhea at 
which time he was found to be in ARF thought ___ to dehydration 
which resolved with hydration. Blood cultures grew MRSA thought 
to be from chronic osteo source and he was taken to the OR by 
podiatry for debridement. TTE did not show e/o endocarditis, TEE 
not performed. Plan per ID at that time was for 6 to 8 weeks of 
Vancomycin for osteo, with course depending on resolution of 
inflammatory markers, flagyl while on vancomycin given prior 
history of c-diff colitis, and evaluation by vascular as outpt.
.
In the ED, initial VS were T: 97.4 BP: 152/83 HR: 69 RR: 16 
O2sat 100% 2L NC. Pt was reportedly alert, oriented and 
cooperative, no longer confused. CT head was reviewed. CXR was 
performed and showed no infiltrate. He complained of bilateral 
groin pain when ED moved legs to look at chronic osteo so x-ray 
pelvis was performed which on prelim read was neg for 
fracture/dislocation. UA showed nitrites positive, trace 
leukesterase, ___ squams, ___ WBCs, ___ RBCs, mod bacteria. INR 
was supratherapeutic at 3.5. WBC count, cell diff, and lactate 
were all normal. LP was not performed by ED team, he received 
ampicillin 3g IVx1, cetriaxone 1g IV x1, and acyclovir. 
.
ROS:
(+) Per HPI, + 20lb weight loss over past ___.
(-) Denies fever, chills, night sweats. Denies shortness of 
breath, chest pain or tightness, palpitations. Denies nausea, 
vomiting, constipation or abdominal pain. No dysuria. Denies 
arthralgias or myalgias.
 
Past Medical History:
-DVT (multiple) s/p IVC filter ___ on coumadin for life
-CAD s/p CABG and MI; s/p stents
-Chronic dCHF
-HTN
-DM1 iwth reinopathy, neuropathy, ESRD, R charcot foot in ___
-s/p cadaveric renal transplant in ___ on prednisone and
tacrolimus
-ORIF right arm
-chronic foot ulcer
-amputated right toe
-MRSA right foot with osteomyelitis
-C diff colitis ___
-cryptococcal pna in ___, now on fluconazole suppressive
therapy
-lung nodules
-PVD
-GERD
-b/l cataract surgery,
-s/p pop artery angioplasty in ___
-cellulitis
-chronic osteomyelitis followed in ID clinico
-Anemia
-Arteriogram showing R fem/tib and L tib dz and vascular plans 
to consider intervention as outpatient.
 
Social History:
___
Family History:
 DM type II in father and paternal grandfather. Mother had 
"heart disease." 
 
Physical Exam:
VS: 161/81 98.2 71 20 100%RA
Gen: Chronically ill appearing man in NAD.
HEENT: Sclerae anicteric, no conjunctival pallor. OP clear, dry 
MM.
Neck: No JVD, no LAD. Neck supple.
Cor: RRR no m/r/g appreciated.
Pulm: CTAB no w/r/r.
Abd: soft +BS, NT. No rebound/guarding.
Extrem: Bilateral heal ulcers with granulation tissue. Left toes 
erythematous. Right foot erythematous and mildly warm with 
healing scabbed lesions. Right heel ulcers with fibrinous; does 
not appear purulent.
Neuro: CN II-XII intact bilaterally. Strength is ___ in upper 
ext. Hip flexors ___ b/l he reports d/t pain. ___ dorsi-/plantar 
flexion b/l. No. tremor/asterixis. A&Ox3. Gait deferred. 
 
Pertinent Results:
___ 05:00PM BLOOD WBC-6.0# RBC-5.15# Hgb-11.7*# Hct-38.2*# 
MCV-74* MCH-22.7* MCHC-30.7* RDW-18.2* Plt ___
___ 05:00PM BLOOD Neuts-74.1* ___ Monos-5.6 Eos-1.8 
Baso-0.3
___ 05:00PM BLOOD Glucose-125* UreaN-26* Creat-2.1* Na-142 
K-4.8 Cl-104 HCO3-30 AnGap-13
___ 05:00PM BLOOD Calcium-8.8 Phos-3.9 Mg-1.8
___ 05:00PM BLOOD ___ PTT-27.0 ___
.
___ 05:58AM BLOOD WBC-6.6 RBC-3.93* Hgb-9.3* Hct-29.1* 
MCV-74* MCH-23.6* MCHC-31.8 RDW-18.3* Plt ___
___ 05:58AM BLOOD Glucose-125* UreaN-12 Creat-1.4* Na-143 
K-4.3 Cl-110* HCO3-26 AnGap-11
___ 05:58AM BLOOD Calcium-8.5 Phos-3.3 Mg-1.7
___ 09:58AM BLOOD ___
.
___ 03:42AM BLOOD ALT-17 AST-26 CK(CPK)-37* AlkPhos-93 
TotBili-0.2
___ 03:42AM BLOOD CK(CPK)-37 CK-MB-3 cTropnT-0.02*
___ 02:14PM BLOOD CK(CPK)-44 CK-MB-NotDone cTropnT-0.02*
___ 12:23AM BLOOD CK(CPK)-49 CK-MB-NotDone cTropnT-0.02*
.
___ 05:00PM BLOOD VitB12-1075* Folate-GREATER TH
___ 05:00PM BLOOD TSH-5.4*
___ 06:46AM BLOOD TSH-3.4 Free T4-1.1
___ 03:42AM BLOOD CRP-3.9
.
___ BCx: STAPH, COAGULASE NEGATIVE. ISOLATED FROM 
1 SET ONLY.
___ UCx: NO GROWTH. 
___ Stool C. diff tox: Negative
___ Crypto Ag: NOT DETECTED. 
___ CSF: WBC 1 (3N, 42L, ___, RBC 1, TP 63, Gluc 103, LDH 
28
   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
   FLUID CULTURE (Final ___: NO GROWTH. 
   FUNGAL CULTURE (Final ___: NO FUNGUS ISOLATED. 
   ACID FAST CULTURE (Preliminary): NO MYCOBACTERIA ISOLATED. 
   VIRAL CULTURE (Final ___:    NO VIRUS ISOLATED. 
   PCR: EBV, HSV, JCV, Lyme all negative.
   CYTOLOGY: NEGATIVE FOR MALIGNANT CELLS.
___ RPR: NONREACTIVE. 
___ BCx: NO GROWTH x 2.
.
___ EKG Baseline artifact. Sinus rhythm at 71 bpm. ST-T 
wave abnormalities which are non-specific. Compared to the 
previous tracing of ___ ventricular premature beats have 
resolved. Otherwise, no other significant diagnostic change.
.
___ CXR: No acute cardiopulmonary process.
.
___ EEG: This is a normal routine EEG in the drowsy and 
waking
states. There were no areas of focal slowing or epileptiform 
discharges.
.
___ MRI/MRA Head/Neck: 1. No evidence of ischemic event. 2. 
Limited study due to lack of IV contrast, with possible 
narrowing of the distal right common carotid artery which is 
poorly visualized. 
.
___ MRI/MRA Head/Neck: Right proximal internal carotid 
artery posterior plaque without flow-limiting stenosis. No 
evidence of infarct, hemorrhage, white matter disease, or 
abnormal enhancement. No change from study performed less than 
24 hours earlier.
 
Brief Hospital Course:
___ year old man with DM1, CAD, s/p renal tx on 
immunosuppression, DVTs on coumadin presents with new seizure at 
home.
.
# Convulsions: No further convulsions during hospital course. 
MRI/MRA head/neck unremarkable. EEG without clear evidence of 
seizure. Bedside LP unsuccessful ___ poor spine anatomy, and pt 
initially started empirically on broad antibiotics out of 
concern for infectious risk given immunosuppressed state s/p 
renal transplant and h/o resistant organisms and cryptococcal 
PNA. Subsequent fluoro-guided LP successful remarkable only for 
elevated protein; antimicrobials discontinued as infectious 
work-up unrevealing. It is possible that triggering event was 
low ___ although ___ at time of event was not recorded although 
reportedly in normal range earlier that morning and high-running 
during hospital course. Efforts made to improve glycemic 
control. Given low risk of recurrence, Neuro did not recommend 
starting on anticonvulsants. Pt to follow up with Dr. ___ 
in Neurology in ___ months.
.
# Multiple DVTs: S/p IVC filter ___. Coumadin initially 
supratherapeutic on admission. Restarted on outpatient coumadin 
dose with INR 1.4 on discharge. ___ to draw coags and fax to 
___ clinic for review with adjustment of outpatient 
coumadin dose as indicated.
.
# Acute on chronic renal failure: On immunosuppressive therapy 
s/p renal transplant with h/o crypto PNA in ___. Continued on 
outpatient tacrolimus, fluconazole and bactrim prophylaxis, and 
Epo. Cr bumped above baseline (___), ddx pre-renal (Hct above 
baseline on presentation suggestive of dehydration) v. acyclovir 
effect. Outpatient lasix held and pt hydrated with IVF with 
improvement. Acyclovir stopped when HSV PCR returned negative; 
urine eos negative. Pt euvolemic with Cr 1.4 on discharge with 
plan for ___ to draw creatinine, to be forwarded to PCP for 
review. To restart Lasix as tolerated or for weight gain > 3 
lbs. Pt's wife to schedule PCP ___. Of note, tacrolimus 
level attempted to be checked several times but not drawn as 
trough level. ___ to draw 12-hour trough level and forward 
results to Dr. ___ for review. F/u 
appointment scheduled for ___.
.
# DM Type 1: ___ high-running during hospitalization, possible 
with concentration ___ volume depletion. Pt continued on 
vancomycin for treatment of known MRSA infection with no acute 
change to explain hyperglycemia. Followed by ___ and ___ by 
consult as inpatient; recommended increase in Lantus with 
prandial humalog and adjusted sliding scale. Pt instructed to 
monitor ___ carefully on discharge; to notify ___ physician 
if ___ still poorly controlled.
.
# MRSA osteomyelitis and bacteremia: Followed by Dr. ___ 
ID, on 6-week course of vancomycin, to continue for 3 weeks with 
weekly CBC, electrolyte, and vanco trough checks. Further abx 
course to be determined at follow-up appointment scheduled for 
___. Pt's wife to schedule follow up with Podiatry in 1 week.
.
# H/o C. diff colitis: Pt on outpatient flagyl prophylaxis. 
Initially switched to po vanco for concern of decreased seizure 
threshold on flagyl but this discontinued as C. diff neg and no 
diarrhea, fever, or leukocytosis.
.
# CAD: Stable s/p MI, CABG, PCI. Continued on ASA, clopidogrel, 
statin, BB, and imdur.
.
# HTN: Controlled on outpatient metoprolol. Lasix held as above 
given acute on chronic renal failure.
.
# PVD: Vascular outpatient notes recommend repeat angiogram and 
angioplasty for right popliteal restenosis and slow healing. 
Podiatry recommended continued wound care (betadine, DSD, 
Kerlix), elevation of RLE, and multipodus splints b/l, and 
elevation of RLE. Continue with abx with no surgical 
interventation at this time. Pt's wife to schedule follow-up 
with Podiatry in 1 week.
.
# Anemia: Hct increased on presentation, suggestive of 
dehydration. Otherwise, anemia stable at baseline, likely ___ 
CRI. Continued on outpatient Epo.
.
# GERD: Stable, continued on outpatient PPI.
 
Medications on Admission:
Vancomycin 750mg IV q24h (increased from 500mg to 1000mg daily 
one week ago); held dose ___. for trough 24 and dose of 750mg 
given yesterday
Atorvastatin 80mg daily
Clopidogrel 75 mg daily (stopped last night in prep for ___
Isosorbide Mononitrate 60 mg daily
Senna 8.6 mg PO BID prn
Warfarin 1.5 mg daily (stopped last night in prep for ___
Metronidazole 500 mg PO TID
Cholecalciferol (Vitamin D3) 400 units daily
Epoetin Alfa 4,000 units qMWF
Multivitamin (stopped 4 days ago for ___
Trimethoprim-Sulfamethoxazole 80-400 mg qMWF
Fluconazole 200 mg daily
Polysaccharide Iron Complex ___ mg daily (stopped 4 days ago for 
___
Metoprolol Tartrate 50 mg PO bid
Pantoprazole 40 mg daily
Prednisone 5 mg PO daily
Tacrolimus 1 mg PO Q12H
Ascorbic Acid ___ mg PO daily
Aspirin 81 mg daily (stopped last night in prep for ___
Calcium Carbonate 500 mg qid prn
Latanoprost 0.005 % eye gtt hs
Lantus 36 units hs
Novolog SS
Oxycodone 5 mg q6h prn
Silver sulfadiazine topical on wound
Actonel 35mg qweek on ___
Furosemide 40mg PO bid
Florinef 0.1mg qMWF 
 
Discharge Medications:
1. Vancomycin 500 mg Recon Soln Sig: Seven Hundred Fifty (750) 
mg Intravenous Q 24H (Every 24 Hours) for 21 days.
Disp:*21 doses* Refills:*0*
2. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Isosorbide Mononitrate 60 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
5. Warfarin 1 mg Tablet Sig: 1.5 Tablets PO Once Daily at 4 ___.  

6. Cholecalciferol (Vitamin D3) 400 unit Capsule Sig: One (1) 
Capsule PO once a day.  
7. Epoetin Alfa 4,000 unit/mL Solution Sig: One (1) injection 
Injection QMOWEFR (___).  
8. Multivitamin     Capsule Sig: One (1) Capsule PO once a day.  

9. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO 3X/WEEK (___).  
10. Fluconazole 200 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours).  
11. Polysaccharide Iron Complex ___ mg Capsule Sig: One (1) 
Capsule PO once a day.  
12. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
13. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
14. Prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
15. Tacrolimus 1 mg Capsule Sig: One (1) Capsule PO Q12H (every 
12 hours).  
16. Ascorbic Acid ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
17. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
18. Calcium Carbonate 500 mg Capsule Sig: One (1) Capsule PO 
four times a day as needed.  
19. Latanoprost 0.005 % Drops Ophthalmic
20. Lantus 100 unit/mL Cartridge Sig: Thirty (30) units
units Subcutaneous once a day.  
21. Novolog 100 unit/mL Solution Sig: Two (2) units Subcutaneous 
tid with meals.  
22. Novolog 100 unit/mL Solution Sig: Sliding scale as directed  
Subcutaneous As directed: See appended sliding scale.  
23. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed.  
24. Actonel 35 mg Tablet Sig: One (1) Tablet PO once a week.  
25. Lasix 40 mg Tablet Sig: One (1) Tablet PO once a day: 
Restart for weight gain > 3 lbs or as directed by PCP.  
26. Fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO 3X/WEEK 
(___).  
27. Adaptic 3 X 3   Bandage Sig: As needed bandages Topical once 
a day.
Disp:*3 boxes* Refills:*2*
28. Outpatient Lab Work
Please check weekly
29. Outpatient Lab Work
Please check weekly CBC, electrolytes, and vanco trough levels 
and fax results to Dr. ___ at ___.
30. Outpatient Lab Work
Please check INR on ___ and fax results to ___ 
clinic at ___.
31. Outpatient Lab Work
Please check Chem-7 on ___ at fax result to PCP, ___. 
___ at ___ for review.
32. Outpatient Lab Work
Please check 12-hour tacrolimus trough level on ___ or 
earliest date possible and fax result to Dr. ___ at 
___.
33. Wound care
Please apply adaptic to wound, then dry sterile 4x4s, then 
kerlex wrap, and then ACE bandage. Pt to wear multipodus boot.
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary
- Seizure
- Acute on chronic renal failure
Secondary
- Recurrent DVT s/p IVC filter on coumadin
- CAD
- Chronic diastolic CHF  
- Hypertension
- DM Type ___ 
- S/p cadaveric renal transplant on immunosuppression
- RLE MRSA osteomyelitis
- H/o MRSA bactermia
- Chronic ___ ulcer
- S/p right toe amputation   
- H/o C diff colitis
- H/o cryptococcal PNA, on fluconazole  
- PVD  
- GERD  
- Anemia  

 
Discharge Condition:
Stable, no further convulsions.

 
Discharge Instructions:
You were admitted for convulsions, likely a seizure. Your MRI 
head, EEG, and lumbar puncture were unremarkable. You were seen 
by Neurology. It is possible that this could have been related 
to low blood sugars but no clear cause was identified for your 
seizure, and Neurology did not feel that you needed to be 
started on anticonvulsants as you are at relatively low risk of 
recurrence but you will need to follow up with them in several 
months. In the meantime, you will continue treatment with 
vancomycin for your MRSA osteomyelitis at least until you follow 
up with Dr. ___ in ___ as previously scheduled. Please 
wear your multipodus boot and follow up with Podiatry.
.
The following changes were made to your medications:
- Metronidazole (flagyl) discontinued.
- Lantus increased to 30 units. Please also take 2 units humulog 
with each meal. Please continue with your insulin sliding scale 
- doses adjusted as per appended sheet. Please carefully check 
your fingerstick glucoses and call your ___ physician if your 
sugars remain difficult to control.
- Lasix held due to acute renal failure. Please weigh yourself 
as soon as you get home and then daily. If you gain more than 3 
lbs, please restart your lasix. Otherwise, your creatinine will 
be drawn on ___ with results forwarded to your PCP; please 
restart Lasix as directed.
Please take all other medications as prescribed.
.
Please call your PCP or come to the ED if you develop new 
convulsions, fever >100.4, neck stiffness, severe headache, 
weakness, numbness, or any other concerning symptoms. 
 
Followup Instructions:
___